US06949542B2
[4-Chloro-5-(isobutyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (4,5-dichloro-2-nitro-phenyl)-carbamic acid tert.-butyl ester (Example A20) (5.0 g, 16.3 mmol) and N-isobutyl-methylamine (7.09 g, 81.4 mmol) in DMSO (50 mL) at RT according to the general procedure C. Obtained as a brown oil (5.79 g, 99%).

reactant | (4,5-dichloro-2-nitro-phenyl)-carbamic acid tert.-butyl ester | 16.3 mmol, 5.0 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])=O | C11H12Cl2N2O4
reactant | N-isobutyl-methylamine | 81.4 mmol, 7.09 g | C(C(C)C)NC | C5H13N
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | [4-Chloro-5-(isobutyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)Cl)[N+](=O)[O-])=O | C16H24ClN3O4
